US07981874B2
1,1-dimethylethyl [2-({[4-(2-methyl-2-oxido-1,2-oxaphospholan-5-yl)phenyl]carbonyl}amino)-4-(2-thienyl)phenyl]carbamate (95 mg, 0.185 mmol) was taken up in DCM (5 mL)/TFA (2 mL). After 3 hours, saturated NaHCO3 was added and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo to give N-[2-amino-5-(2-thienyl)phenyl]-4-(2-methyl-2-oxido-1,2-oxaphospholan-5-yl)benzamide as a yellow solid. The title compound was obtained as a 1:1 mixture of diastereosiomers. MS: cal'd 413 (MH+), exp 413 (MH+).

reactant | 1,1-dimethylethyl [2-({[4-(2-methyl-2-oxido-1,2-oxaphospholan-5-yl)phenyl]carbonyl}amino)-4-(2-thienyl)phenyl]carbamate | 0.185 mmol, 95 mg | CP1(OC(CC1)C1=CC=C(C=C1)C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O)=O | C26H29N2O5PS
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[2-amino-5-(2-thienyl)phenyl]-4-(2-methyl-2-oxido-1,2-oxaphospholan-5-yl)benzamide | NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CC=C(C=C1)C1CCP(O1)(=O)C)=O | C21H21N2O3PS
